US05144045
A mixture of 156.75 g of dry ethylene glycol and 64.37 g of 87.2% potassium hydroxide is warmed and stirred until a complete solution. The mixture is then stirred in a 90° C. oil bath and 130.51 g of benzyl chloride is added dropwise over 2 hours. This mixture is then stirred at 130° C. for 2 hours, cooled and 500 ml of water added. The oil is extracted twice with ether. The extracts are combined and evaporated. The residue is distilled, giving 83.2 g of ethylene glycol monobenzyl ether.

reactant | ethylene glycol | 156.75 g | C(CO)O | C2H6O2
reactant | potassium hydroxide | 64.37 g | [OH-].[K+]
reactant | benzyl chloride | 130.51 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | water | 500 ml | O | H2O
product | ethylene glycol monobenzyl ether | 83.2 g | C(C1=CC=CC=C1)OCCO | C9H12O2
